US09428470B2
G) 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl 4-carbamimidamidobenzoate
4-Carbamimidamidobenzoyl chloride hydrochloride (317 mg) was added to a mixture of di-tert-butyl 2,2′-(3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (265 mg), pyridine (0.3 mL), and NMP (0.3 mL) at 50 C, and the obtained mixture was stirred overnight at 50 C. To the reaction mixture, acetonitrile was added. The precipitate was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate, subsequently acetonitrile/acetic acid) and then further fractionated by HPLC (C18, mobile phase: water/acetonitrile (system containing 0.1% TFA)). To the obtained fraction, a saturated aqueous solution of sodium bicarbonate was added, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain the title compound (94 mg).

reactant | 4-Carbamimidamidobenzoyl chloride hydrochloride | 317 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)Cl)C=C1
reactant | di-tert-butyl 2,2′-(3-(3-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 265 mg | OC=1C=C(C=CC1)C1=NOC(C1)(CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C21H29NO6
reactant | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
reactant | NMP | 0.3 mL | CN1CCCC1=O | C5H9NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-(5,5-Bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)phenyl 4-carbamimidamidobenzoate | 94 mg | N(C(=N)N)C1=CC=C(C(=O)OC2=CC(=CC=C2)C2=NOC(C2)(CC(OC(C)(C)C)=O)CC(=O)OC(C)(C)C)C=C1 | C29H36N4O7
